US05036074
starting from 2-(2,4-dichlorophenyl)-1-(3-pyridyl)-1-propanone and propyltriphenylphosphonium bromide there is obtained 3-(2,4-dichloro-β-methyl-α-propylidenephenethyl)-pyridine

reactant | 2-(2,4-dichlorophenyl)-1-(3-pyridyl)-1-propanone | ClC1=C(C=CC(=C1)Cl)C(C(=O)C=1C=NC=CC1)C | C14H11Cl2NO
reactant | propyltriphenylphosphonium bromide | [Br-].C(CC)[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
product | 3-(2,4-dichloro-β-methyl-α-propylidenephenethyl)-pyridine | ClC1=C(C(C(=CCC)C=2C=NC=CC2)C)C=CC(=C1)Cl | C17H17Cl2N
